US05506256
B) N-[(1-Adamantyl)methoxycarbonyl]-L-proline
To a solution of N-[(1-adamantyl)methoxycarbonyl]-L-proline benzyl ester (1.98 g) in methanol (60 ml) was added 10% Pd-C (0.20 g), and the mixture was stirred at room temperature under hydrogen atmosphere for 1.5 hours. The catalyst was filtered off, and the filtrate was concentrated to give 1.53 g of the title compound.

reactant | N-[(1-adamantyl)methoxycarbonyl]-L-proline benzyl ester | 1.98 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(=O)OCC12CC3CC(CC(C1)C3)C2)=O | C24H31NO4
solvent | methanol | 60 ml | CO | CH4O
catalyst | Pd-C | 0.20 g | [Pd] | Pd
product | N-[(1-Adamantyl)methoxycarbonyl]-L-proline | 1.53 g | C12(CC3CC(CC(C1)C3)C2)COC(=O)N2[C@H](C(=O)O)CCC2 | C17H25NO4
